US07750152B2
cis-and trans-4-(4-phenyl-piperazin-1-yl)-cyclohexylamine
4.1 g (25.3 mmol) of 4-dibenzylcyclohexanone was dissolved in 50 mL of dichloromethane and stirred for 12 h at RT with 7.4 g (25.3 mmol) of N-phenylpyperazine and 7.4 g (35 mmol) of NaBH(OAc)3. Then water and potassium carbonate were added, the org. phase was separated off, dried and the solvent was eliminated in vacuo. The residue was purified over a silica gel column (ethyl acetate 80/methanol 20+0.5% conc. ammonia). Yield: 1.7 g (15.8%) of cis-isomer and 0.27 (2.5%) of trans-isomer.

reactant | N-phenylpyperazine | 25.3 mmol, 7.4 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | NaBH(OAc)3 | 35 mmol, 7.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | trans-4-(4-phenyl-piperazin-1-yl)-cyclohexylamine | C1(=CC=CC=C1)N1CCN(CC1)[C@@H]1CC[C@H](CC1)N | C16H25N3
